* 3-Stage CMOS Ring Oscillator VCO - NMOS-Only KVCO Sweep
* 單邊控制KVCO掃描: 只使用NMOS

* PDK 路徑
.lib /opt/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt

* Power Supply
Vdd vdd 0 DC 1.8

* Control Voltage (will be swept)
Vctrl vctrl 0 DC 0.9

* ========== Inverter 1 with NMOS-Only Control ==========
XM1_ctrl_n gnd_inv1 vctrl 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=2.0
XM1_n out1 in1 gnd_inv1 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.42
XM1_p out1 in1 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.84

* ========== Inverter 2 with NMOS-Only Control ==========
XM2_ctrl_n gnd_inv2 vctrl 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=2.0
XM2_n out2 out1 gnd_inv2 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.42
XM2_p out2 out1 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.84

* ========== Inverter 3 with NMOS-Only Control ==========
XM3_ctrl_n gnd_inv3 vctrl 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=2.0
XM3_n in1 out2 gnd_inv3 0 sky130_fd_pr__nfet_01v8 L=0.15 W=0.42
XM3_p in1 out2 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=0.84

* Initial condition
.ic v(in1)=0 v(out1)=1.8 v(out2)=0

* Control block
.control
set hcopydevtype=postscript

echo "Vctrl(V),Frequency(GHz),Period(ns)" > vco_kvco_nmos_only_results.csv

echo ""
echo "========== NMOS-Only KVCO掃描 (Vctrl高→頻率高) =========="
echo ""

foreach vctrl_val 0.0 0.05 0.1 0.15 0.2 0.25 0.3 0.35 0.4 0.45 0.5 0.55 0.6 0.65 0.7 0.75 0.8 0.85 0.9 0.95 1.0 1.05 1.1 1.15 1.2 1.25 1.3 1.35 1.4 1.45 1.5 1.55 1.6 1.65 1.7 1.75 1.8
  alter Vctrl = $vctrl_val
  echo "正在模擬 Vctrl = $vctrl_val V..."

  tran 0.1n 300n

  meas tran t1 WHEN v(in1)=0.9 RISE=10
  meas tran t2 WHEN v(in1)=0.9 RISE=11

  if t2 > t1
    let period_ns = (t2-t1)*1e9
    let freq_GHz = 1/(t2-t1)/1e9
    echo "$vctrl_val,$&freq_GHz,$&period_ns" >> vco_kvco_nmos_only_results.csv
  else
    echo "$vctrl_val,0,0" >> vco_kvco_nmos_only_results.csv
    echo "  警告: 在 Vctrl = $vctrl_val V 時無法量測到穩定振盪"
  end

  reset
end

echo ""
echo "==================== NMOS-Only掃描完成 ===================="
echo "結果已儲存至: vco_kvco_nmos_only_results.csv"
echo "=========================================================="
echo ""
quit
.endc

.end
